US07923450B2
b) Methyl 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine-8-carboxylate
The title compound was prepared from crude methyl 5-[1-dimethylamino-methylidene]-4-oxo-tetrahydro-pyran-3-carboxylate (97 mg, 0.45 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (114 mg, 0.31 mmol) using in analogous manner the procedure described in example 45b). Obtained as a pale-yellow oil (8 mg, 7%). MS ISP (m/e): 396.4 [(M+H)+].

reactant | methyl 5-[1-dimethylamino-methylidene]-4-oxo-tetrahydro-pyran-3-carboxylate | 0.45 mmol, 97 mg | CN(C=C1C(C(COC1)C(=O)OC)=O)C | C10H15NO4
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.31 mmol, 114 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | Methyl 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine-8-carboxylate | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1N=CC2=C(N1)C(COC2)C(=O)OC | C20H21N5O4
